US07179801B2
To a suspension of lithium aluminum hydride (5.41 g) in tetrahydrofuran (200 ml) was added a solution of 4-[(E)-2-cyanoethenyl]-1-[2-(trityloxy)ethyl]-5-aminopyrazole (15 g) in tetrahydrofuran (100 ml) under ice-cooling. The mixture was refluxed for 3.5 hours. After cooling on an ice bath, sodium fluoride (24 g) and water (10.3 ml) were added to the reaction mixture. The insoluble materials were removed by filtration. The filtrate was concentrated in vacuo to give 4-(3-aminopropyl)-1-(2-triphenylmethyloxyethyl)-5-aminopyrazole (13.7 g). This product was used in the next step without further purification.

reactant | lithium aluminum hydride | 5.41 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[(E)-2-cyanoethenyl]-1-[2-(trityloxy)ethyl]-5-aminopyrazole | 15 g | C(#N)/C=C/C=1C=NN(C1N)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O
reactant | sodium fluoride | 24 g | [F-].[Na+]
reactant | water | 10.3 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(3-aminopropyl)-1-(2-triphenylmethyloxyethyl)-5-aminopyrazole | 13.7 g | NCCCC=1C=NN(C1N)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H30N4O
